US09034891B2
Synthesis of 2,8-dimethyl-1-oxa-4,8-diazaspiro[4.5]decane
A mixture of 1-amino-2-propanol (9.2 ml, 1.2 mmol) and 1-methyl-4-piperidone (11.5 ml, 1.0 mmol) was heated under reflux for 2 h and left overnight at room temperature. The reaction mixture was distilled under reduced pressure (˜15 mm Hg). The title compound was collected at 82-95° C. 1H NMR (CDCl3, 300 MHz) δ 4.02 (m, 1H, OCH), 3.25 (dd, J=11.9, 6.3 Hz, 1H, CHH), 2.68 (dd, J=11.9, 6.6 Hz, 1H, CHH), 2.4-2.6 (m, 4H-piperidine), 2.1 (s, 3H, NCH3), 1.65-1.81 (m, 4H-piperidine), 1.21 (d, J=6.1 Hz, 3H, CH3CH) ppm.

reactant | 1-amino-2-propanol | 1.2 mmol, 9.2 ml | NCC(C)O | C3H9NO
reactant | 1-methyl-4-piperidone | 1.0 mmol, 11.5 ml | CN1CCC(CC1)=O | C6H11NO
product | 2,8-dimethyl-1-oxa-4,8-diazaspiro[4.5]decane | CC1OC2(NC1)CCN(CC2)C | C9H18N2O
